US08198471B2
9.5 mL of concentrated hydrochloric acid, 65 mL of pure water, and 6.0 g (35 mmol) of 2-bromoaniline were added to a 200-mL four-necked flask, and they were then dissolved by heating. The obtained solution was cooled to 0° C. Thereafter, an aqueous solution of 2.46 g (35.1 mmol) of sodium nitrite that had previously been dissolved in 7.5 mL of pure water was added dropwise thereto over approximately 10 minutes. The reaction solution that was first in a gruel-like state was converted to a light yellow transparent liquid by stirring it for 30 minutes. Subsequently, 12.5 g (59.8 mmol) of a 42-mass-% HBF4 aqueous solution was added dropwise thereto over approximately 5 minutes. As a result, light yellow crystals were immediately precipitated. The reaction solution was stirred for 30 minutes, and the crystals were then filtrated with a glass filter. The resultant was washed with 30 mL of pure water, and was then washed with a mixed solution of 8 mL of methanol and 32 mL of ether. Thereafter, the resultant was dried under a reduced pressure, so as to obtain 4.5 g of 2-bromobenzenediazonium tetrafluoroborate in the form of white crystals (yield: 48%).

reactant | hydrochloric acid | 9.5 mL | Cl | ClH
reactant | 2-bromoaniline | 35 mmol, 6.0 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | sodium nitrite | 35.1 mmol, 2.46 g | N(=O)[O-].[Na+]
reactant | HBF4 | 59.8 mmol, 12.5 g | [H+].[B-](F)(F)(F)F
solvent | water | 7.5 mL | O | H2O
solvent | water | 65 mL | O | H2O
product | 2-bromobenzenediazonium tetrafluoroborate | 4.5 g | F[B-](F)(F)F.BrC1=C(C=CC=C1)[N+]#N | InChI=1S/C6H4BrN2.BF4/c7-5-3-1-2-4-6(5)9-8;2-1(3,4)5/h1-4H;/q+1;-1
